US08067436B2
Synthesis of N-(4-{[6,7-bis(methyloxy)-2-(methylthio)quinolin-4-yl]oxy}-3-fluorophenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide Commercially available 5-(bis-methylsulfanyl-methylene)-2,2-dimethyl-[1,3]dioxane-4,6-dione (3.5 g, 14 mmol) and 3,4-dimethoxyaniline (2.2 g, 14 mmol) were reflux in EtOH (20 mL) for 2 hours. The EtOH was removed under reduced pressure and EtOAc was added to the residue. The product was filtered and washed with cold EtOAc (3×). 5-[(3,4-dimethoxy-phenylamino)-methylsulfanyl-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione was obtained as a white solid (1.7 g, 47% yield) and used without further purification. LCMS: m/z 352 (M−H)−.

reactant | N-(4-{[6,7-bis(methyloxy)-2-(methylthio)quinolin-4-yl]oxy}-3-fluorophenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | COC=1C=C2C(=CC(=NC2=CC1OC)SC)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | C29H25F2N3O5S
reactant | 5-(bis-methylsulfanyl-methylene)-2,2-dimethyl-[1,3]dioxane-4,6-dione | 14 mmol, 3.5 g | CSC(=C1C(OC(OC1=O)(C)C)=O)SC | C9H12O4S2
reactant | 3,4-dimethoxyaniline | 14 mmol, 2.2 g | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | EtOH | 20 mL | CCO | C2H6O
product | 5-[(3,4-dimethoxy-phenylamino)-methylsulfanyl-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 83% yield | COC=1C=C(C=CC1OC)NC(=C1C(OC(OC1=O)(C)C)=O)SC | C16H19NO6S
